US07713994B2
A mixture of N-[4-(3-methoxyamino-propyl)-phenyl]-acetamide (0.50 mmol) and 20% aqueous hydrochloric acid (2 mL) in methanol (8 mL) is heated for 18 hours at 60° C. and then concentrated under reduced pressure to give N-[3-(4-amino-phenyl)-propyl]-O-methyl-hydroxylamine dihydrochloride (62 mg, 0.24 mmol) and is used in the following step without further purification.

reactant | N-[4-(3-methoxyamino-propyl)-phenyl]-acetamide | 0.50 mmol | CONCCCC1=CC=C(C=C1)NC(C)=O | C12H18N2O2
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | N-[3-(4-amino-phenyl)-propyl]-O-methyl-hydroxylamine dihydrochloride | 0.24 mmol, 62 mg | Cl.Cl.NC1=CC=C(C=C1)CCCNOC | InChI=1S/C10H16N2O.2ClH/c1-13-12-8-2-3-9-4-6-10(11)7-5-9;;/h4-7,12H,2-3,8,11H2,1H3;2*1H
